US06423699B1
(4-Isopropyl-2-oxo-3,4-dihydro-quinoxalin-6-yl)boronic acid.
To a solution of 6-bromo-4-isopropyl-3,4-dihydro-1H-quinoxalin-2-one (8.1 g, 30 mmol) in THF (200 ml) was added sodium hydride (60% dispersion in mineral oil, 1.2 g, 30 mmol). After stirring for 30 min. at room temperature, the mixture was cooled to −78° C. and butyl lithium (2.5 M in hexanes, 12.5 ml, 30 mmol) was added slowly. After 30 min. triisopropyl borate (19 ml, 83 mmol) was added and the mixture was allowed to warm to room temperature. After 2 hours, hydrochloric acid (1N, 350 ml) and ethyl acetate (350 ml) were added. After stirring for 30 min., the pH was adjusted to 6 and the layers were separated. The aqueous phase was extracted with ethyl acetate, the combined organic layers were washed with water, brine, dried (MgSO4) and evaporated. The residue was triturated with ether, the precipitate filtered off and dried in vacuo to obtain the subtitled compound (3.5 g, 50%) as an off-white solid that was used without further purification. 1H-NMR (DMSO-d6) δ 1.15 (d, J=6.56 Hz, 6H), 3.51 (s, 2H), 4.04 (septet, J=6.57 Hz, 1H), 6.76 (d, J=7.65 Hz, 1H), 7.14 (d, J=7.66 Hz, 1H), 7.27 (s, 1H), 7.84 (s, 2H), 10.41 (s, 1H).

reactant | 6-bromo-4-isopropyl-3,4-dihydro-1H-quinoxalin-2-one | 30 mmol, 8.1 g | BrC=1C=C2N(CC(NC2=CC1)=O)C(C)C | C11H13BrN2O
reactant | sodium hydride | 30 mmol, 1.2 g | [H-].[Na+]
reactant | butyl lithium | 30 mmol, 2.5 M, 12.5 ml | C(CCC)[Li]
reactant | triisopropyl borate | 83 mmol, 19 ml | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | hydrochloric acid | 1N, 350 ml | Cl | ClH
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 350 ml | C(C)(=O)OCC | C4H8O2
product | (4-Isopropyl-2-oxo-3,4-dihydro-quinoxalin-6-yl)boronic acid | 3.5 g, 50% | C(C)(C)N1CC(NC2=CC=C(C=C12)B(O)O)=O | C11H15BN2O3
